US03976681
Step C: (1,3-Dioxo-2,2-diethyl-4,5-dimethyl-6-indanyloxy)acetic acid
A stirred mixture of 2,2-diethyl-4,5-dimethyl-6-hydroxy-indan-1,3-dione (3.5 g., 0.014 mole), ethyl bromoacetate (2.7 g., 0.016 mole) and potassium carbonate (2.2 g., 0.016 mole) in dimethylformamide (20 ml.) is heated at 65°C. for two hours, treated with methanol (40 ml.) and potassium hydroxide (1.1 g., 0.02 mole) refluxed for 1/2 hour then poured into dilute hydrochloric acid (500 ml.) affording 4.2 g. of (1,3-dioxo-2,2-diethyl-4,5-dimethyl-6-indanyloxy-acetic acid which melts at 134° 136°C. after recrystallization from acetic acid-water.

reactant | 2,2-diethyl-4,5-dimethyl-6-hydroxy-indan-1,3-dione | 0.014 mole, 3.5 g | C(C)C1(C(C2=CC(=C(C(=C2C1=O)C)C)O)=O)CC | C15H18O3
reactant | ethyl bromoacetate | 0.016 mole, 2.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.016 mole, 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 0.02 mole, 1.1 g | [OH-].[K+]
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methanol | 40 ml | CO | CH4O
product | (1,3-Dioxo-2,2-diethyl-4,5-dimethyl-6-indanyloxy)acetic acid | O=C1C(C(C2=C(C(=C(C=C12)OCC(=O)O)C)C)=O)(CC)CC | C17H20O5
